US06730684B1
a) N,2-Dimethyl-N-[(1-methyl-1H-indol-2-yl)methyl]benzamide
EDC (0.22 g, 1.15 mmole) was added to a solution of ortho-toluic acid (0.15 g, 1.10 mmole), 1-methyl-2-(methylaminomethyl)indole (0.20 g, 1.15 mmole), and HOBt.H2O (0.15 g, 1.11 mmole) in DMF at RT. The reaction was stirred overnight, then was concentrated in vacuo. The residue was diluted with 5% NaHCO3 and extracted with CH2Cl2. The combined organic extracts were washed with brine and dried over MgSO4. Flash chromatography on silica gel (20% EtOAc/hexanes) gave a colorless gum, which was triturated with Et2O to afford the title compound (0.2 g, 37%) as a white solid: 1H NMR (300 MHz, CDCl3) indicated an approximately 5:1 mixture of amide rotamers; for the major rotamer: δ 7.60 (d, J=7.7 Hz, 1H), 7.05-7.40 (m, 7H), 6.52 (s, 1H), 5.01 (s, 2H), 3.85 (s, 3H), 2.71 (s, 3H), 2.30 (s, 3H); for the minor rotamer: δ 7.60 (d, J=7.7 Hz, 1H), 7.05-7.40 (m, 7H), 6.44 (s, 1H), 4.52 (s, 2H), 3.50 (s, 3H), 3.14 (s, 3H), 2.37 (s, 3H); MS (ES) m/e 293 (M+H)+. Anal. Calcd for C19H20N2O.0.35H2O: C, 76.40; H, 6.99; N, 9.38. Found: C, 76.10; H, 6.83; N, 9.33.

reactant | EDC | 1.15 mmole, 0.22 g
reactant | ortho-toluic acid | 1.10 mmole, 0.15 g | C=1(C(=CC=CC1)C(=O)O)C | C8H8O2
reactant | 1-methyl-2-(methylaminomethyl)indole | 1.15 mmole, 0.20 g | CN1C(=CC2=CC=CC=C12)CNC | C11H14N2
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 1.11 mmole, 0.15 g | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | N,2-Dimethyl-N-[(1-methyl-1H-indol-2-yl)methyl]benzamide | 0.2 g, 37% | CN(C(C1=C(C=CC=C1)C)=O)CC=1N(C2=CC=CC=C2C1)C | C19H20N2O
